US07053255B2
(1) Synthesis of 9-(4-formylphenyl)anthracene
Under an atmosphere of argon, 9-bromoanthracene (3.9 g, 15 mmole), 4-formylphenylboronic acid (2.5 g, 17 mmole, 1.1 eq), potassium fluoride (3.2 g, 56 mmole, 3 eq) and tris(dibenzylideneacetone)dipalladium(0) (0.07 g, 76 mmole, 1% Pd) were suspended in anhydrous THF (25 ml). To the obtained suspension, a toluene solution of tri-t-butylphosphine (66%, 0.06 ml, 0.2 mmole, 1.3 eq to Pd) was added and the resultant mixture was heated under refluxing for 10 hours. To the reaction mixture, water (50 ml) and toluene (150 ml) were added. The formed organic layer was separated, washed with a saturated aqueous solution of sodium chloride (50 ml) and dried with magnesium sulfate. Then, the solvent was removed by distillation and a light yellow solid was obtained. The obtained solid was purified by the column chromatography (silica gel/hexane+50% dichloromethane) and a light yellow solid (3.3 g, 78%) were obtained.

reactant | 9-bromoanthracene | 15 mmole, 3.9 g | BrC=1C2=CC=CC=C2C=C2C=CC=CC12 | C14H9Br
reactant | 4-formylphenylboronic acid | 17 mmole, 2.5 g, 1.1 eq | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | potassium fluoride | 56 mmole, 3.2 g, 3 eq | [F-].[K+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 76 mmole, 0.07 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri-t-butylphosphine | 0.2 mmole, 0.06 ml, 1.3 eq | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
product | 9-(4-formylphenyl)anthracene | 3.3 g, 78% | C(=O)C1=CC=C(C=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C21H14O
